US04014920
A suspension of 23.5 g (0.1 mol) of p-(2-methoxy-carbonylaminovinyl)-acetoxybenzene in 300 ml of absolute methanol, which is mixed with a solution of 5.4 g of sodium methoxide in 30 ml of methanol, is warmed to 50° C for 15 minutes. Thereafter the mixture is evaporated to dryness under reduced pressure. The resulting crude sodium salt of [2-methoxy-carbonylaminovinyl]-phenol is dissolved in 100 ml of water, 50 ml of 2 N hydrochloric acid are added to the solution and the phenol which has separated out is extracted with ethyl acetate. The organic phase is washed with water, dried over sodium sulphate and evaporated in vacuo. Crude p-(2-methoxy-carbonylaminovinyl)-phenol is obtained as an oil. This can be used, as shown below, without further purification. A sample crystallised from ether showed a melting point of 169°-170° C.

reactant | p-(2-methoxy-carbonylaminovinyl)-acetoxybenzene | 0.1 mol, 23.5 g | COC(=CC1=CC=C(C=C1)OC(C)=O)N=C=O | C12H11NO4
reactant | sodium methoxide | 5.4 g | C[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | p-(2-methoxy-carbonylaminovinyl)-phenol | COC(=CC1=CC=C(C=C1)O)N=C=O | C10H9NO3
